US07081454B2
4-(3-Amino-5-methyl-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester:
To a stirred solution of 3-fluoro-5-amino-6-nitrotoluene (10 g, 58.79 mmol) in anhydrous NMP (160 mL) under nitrogen was added BOC-piperazine (39 g, 209.4 mmol) and 4-methylmorpholine (25.9 mL). The resulting dark solution was heated to reflux for 72 h, cooled to room temperature and diluted with ethyl acetate (4000 mL). The organic layer was washed with water (8×1500 mL), brine (1×1500 mL), dried over sodium sulfate and evaporated in vacuo. The resulting dark oil was dissolved in boiling absolute ethanol (800 mL) and concentrated to a total volume of 400 mL and left to stand overnight at room temperature. The solution was further cooled to −20° C. for 5 h and the resulting solid was filtered off and dried in vacuo to give 16.3 g (83%) of a light yellow solid. 1H NMR (500 MHz, CDCl3) δ 6.16 (brs, 1H), 6.04 (brs, 1H), 3.70–3.60 (m,4H), 3.38–3.25 (m, 4H), 2.53 (s, 3H), 1.48 (s, 9H); LCMS (M+H)+ m/z 337.

reactant | 3-fluoro-5-amino-6-nitrotoluene | 58.79 mmol, 10 g | FC=1C=C(C(=C(C1)N)[N+](=O)[O-])C | C7H7FN2O2
reactant | BOC-piperazine | 209.4 mmol, 39 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 4-methylmorpholine | 25.9 mL | CN1CCOCC1 | C5H11NO
solvent | NMP | 160 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 4000 mL | C(C)(=O)OCC | C4H8O2
product | 4-(3-Amino-5-methyl-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 16.3 g, 83% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C(=C1)C)[N+](=O)[O-])N | C16H24N4O4
